US09056873B2
Step A: tert-Butyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-7-fluoro-3-oxo-4-(3-vinylisothiazol-5-yl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate
A solution of tert-butyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate (80 mg, 0.160 mmol), 5-(tributylstannyl)-3-vinylisothiazole (96 mg, 0.240 mmol), and tetrakis(triphenylphosphine)palladium(0) (93 mg, 0.080 mmol) in toluene (4.0 mL) was heated to 120° C. for 45 minutes via microwave irradiation. The reaction mixture was subsequently poured into water and was extracted with EtOAc. The extracts were dried over Na2SO4 and were concentrated in vacuo. The residue was purified by silica gel chromatography (Flash 60 column) eluting with hexane/EtOAc (1:1) to give the title compound as a yellow solid, which was used without further purification (81.3 mg, 88%). ESI-MS m/z [M+H]+ calc'd for C28H36FN5O5S, 574. found, 574.

reactant | tert-butyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 0.160 mmol, 80 mg | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=C(C2=C(C(=N1)Cl)C(N(C2)C(=O)OC(C)(C)C)=O)F | C23H32ClFN4O5
reactant | 5-(tributylstannyl)-3-vinylisothiazole | 0.240 mmol, 96 mg | C(CCC)[Sn](C1=CC(=NS1)C=C)(CCCC)CCCC
reactant | water | O | H2O
solvent | toluene | 4.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.080 mmol, 93 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-Butyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-7-fluoro-3-oxo-4-(3-vinylisothiazol-5-yl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=C(C2=C(C(=N1)C1=CC(=NS1)C=C)C(N(C2)C(=O)OC(C)(C)C)=O)F | C28H36FN5O5S
